US05371096
A mixture of 100 g of δ-valerolactone, 50 ml of water, 350 ml of toluene, 280g of potassium hydroxide pellets and 300 ml of benzyl chloride is refluxed overnight with mechanical stirring and azeotroping the water with the use of a Dean-Stark apparatus. The thick white mass is cooled to room temperature and dissolved in 1 l of cold water. The organic layer is separated and the aqueous layer is condensed to 1/3 by heating over a period of 5 h. The mixture is cooled to room temperature, acidified with concentrated hydrochloric acid and extracted with ethyl acetate (2×300 ml). The combined extracts are washed with brine, dried (MgSO4) and evaporated to dryness to give 5-benzyloxypentanoic acid.

reactant | δ-valerolactone | 100 g | C1(CCCCO1)=O | C5H8O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | benzyl chloride | 300 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
product | 5-benzyloxypentanoic acid | C(C1=CC=CC=C1)OCCCCC(=O)O | C12H16O3
